US04180672
Cyclopentenone (3.40 g) was oxidized in 15 ml of methanol using 4.4 ml of an aqueous solution of hydrogen peroxide and 4 ml of a 3 N aqueous solution of sodium hydroxide to afford crude 2,3-epoxycyclopentanone. To the crude product was added dropwise slowly 30 ml of a solution of 3.20 g of n-heptylmercaptan in methanol at room temperature over the course of 1.5 hours. Thirty minutes after the end of addition, the reaction mixture was concentrated under reduced pressure, and diethyl ether was added. The organic layer was washed with water, and treated in a customary manner to afford 5.21 g of a crude product. The crude product was chromatographed with cyclohexane/ethyl acetate (=8/2) to afford 2.50 g of 2-n-heptylthiocyclopent-2-en-1-one in a yield of 49%. The product had the following characteristics.

reactant | n-heptylmercaptan | 3.20 g | C(CCCCCC)S | C7H16S
reactant | methanol | CO | CH4O
product | 2-n-heptylthiocyclopent-2-en-1-one | 2.50 g, yield of 49% | C(CCCCCC)SC=1C(CCC1)=O | C12H20OS
